US20010027196A1
2-Amino-4-benzyloxy-6-(pyridin-2-yl-methoxy)-pyrimidine-5-carbonitrile
From 2-amino-4-chloro-6-(pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile, benzyl alcohol and DBU in DME. ES-MS m/e (%): 356 (MNa+, 50), 334 (M+H+, 100).

reactant | 2-amino-4-chloro-6-(pyridin-2-ylmethoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)Cl)C#N)OCC1=NC=CC=C1 | C11H8ClN5O
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-benzyloxy-6-(pyridin-2-yl-methoxy)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCC1=CC=CC=C1)C#N)OCC1=NC=CC=C1 | C18H15N5O2
